US06605629B1
A mixture of methyl 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionate (2.00 g), 2-mercaptopyrimidine (819 mg), anhydrous potassium carbonate (1.10 g) and N,N-dimethylformamide (10 ml) was heated to 100-110° C. and stirred for 4 hours. The reaction mixture was poured into water (100 ml) and extracted with ethyl acetate (100 ml×2). The organic layer was dried over anhydrous magnesium sulfate and then concentrated, the residue was subjected to silica gel column chromatography, and methyl 4-(4-chlorophenyl)-2-(2-pyrimidinylsulfanyl)-5-oxazolepropionate was obtained as a yellow oil (1.42 g, 57%) from an ethyl acetate-hexane (1:4, v/v)-eluted fraction.

reactant | methyl 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionate | 2.00 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)OC | C13H11Cl2NO3
reactant | 2-mercaptopyrimidine | 819 mg | SC1=NC=CC=N1 | C4H4N2S
reactant | potassium carbonate | 1.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | methyl 4-(4-chlorophenyl)-2-(2-pyrimidinylsulfanyl)-5-oxazolepropionate | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)OC)SC1=NC=CC=N1 | C17H14ClN3O3S
